US05278158
A mixture of 21.6 g 4-acetyl-3,4-dihydro-2,2-dimethyl-7-nitro-6-trifluoroacetylamino-2H-1,4-benzoxazine, 500 ml methanol, 50 ml water and 10.5 g sodium bicarbonate was stirred at room temperature for seven hours, the reaction mixture was poured into 1.5 l ice water, and the precipitate which separated out was collected by filtration and recrystallized from 450 ml ethanol, giving 13.5 g of 4-acetyl-6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazine.

reactant | 4-acetyl-3,4-dihydro-2,2-dimethyl-7-nitro-6-trifluoroacetylamino-2H-1,4-benzoxazine | 21.6 g | C(C)(=O)N1CC(OC2=C1C=C(C(=C2)[N+](=O)[O-])NC(C(F)(F)F)=O)(C)C | C14H14F3N3O5
reactant | methanol | 500 ml | CO | CH4O
reactant | sodium bicarbonate | 10.5 g | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
product | 4-acetyl-6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazine | 13.5 g | C(C)(=O)N1CC(OC2=C1C=C(C(=C2)[N+](=O)[O-])N)(C)C | C12H15N3O4
